US05134152
2-(2,4-Dichlorophenyl)-3,3,4-trimethyl-2-(1H-1,2,4-triazol-1-yl)methyloxetane
84 mg (2.1 mmole) of sodium hydride (as a 60% w/w suspension in mineral oil) were added to a solution of 400 mg (0.95 mmole) of 2-(2,4-dichlorophenyl)-3,3-dimethyl-4-mesyloxy-1-(1H-1,2,4-triazol-1-yl)-2-pentanol in 5 ml of N,N-dimethylformamide, and then the mixture was stirred at 90° C. for 2 hours. At the end of this time, the reaction mixture was allowed to cool, after which it was poured into ice-water and extracted with ethyl acetate. The extract was washed with water and dried over anhydrous sodium sulfate, after which the solvent was removed by distillation under reduced pressure. The residue was washed with hexane to give 262.4 mg of a crude product, which was then purified by column chromatography through silica gel, eluted with a 1:1 by volume mixture of hexane and ethyl acetate, to afford 220.7 mg (yield 71.4%) of the title compound, melting at 118°-125° C. This compound is a steroisomer, isomeric at the C4 position, of the compound obtained in Example 42.

reactant | sodium hydride | 2.1 mmole, 84 mg | [H-].[Na+]
reactant | 2-(2,4-dichlorophenyl)-3,3-dimethyl-4-mesyloxy-1-(1H-1,2,4-triazol-1-yl)-2-pentanol | 0.95 mmole, 400 mg | ClC1=C(C=CC(=C1)Cl)C(CN1N=CN=C1)(C(C(C)OS(=O)(=O)C)(C)C)O | C16H21Cl2N3O4S
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 2-(2,4-Dichlorophenyl)-3,3,4-trimethyl-2-(1H-1,2,4-triazol-1-yl)methyloxetane | 220.7 mg, yield 71.4% | ClC1=C(C=CC(=C1)Cl)C1(OC(C1(C)C)C)CN1N=CN=C1 | C15H17Cl2N3O
